US07423050B2
Dissolve 2,6-dibromopyridine (3.6 g, 15.3 mmol) in anhydrous dichloromethane (90 mL) under nitrogen atmosphere. Cool the reaction mixture to −78° C. Add a solution of n-butyl lithium in hexane very slowly via a syringe (1.6 M, 10.5 mL, 16.9 mmol). After the addition is complete, stir the reaction at −78° C. for 1 hr. Add a solution of 4-(methoxy-methyl-aminocarbonyl)-piperidine-1-carboxylic acid tert-butyl ester (2 g, 7.3 mmol) in anhydrous dichloromethane (10 mL) dropwise to the reaction mixture. Stir the reaction at −78° C. for 2 hrs., then allow it to slowly warm to room temperature overnight. Quench the reaction with 0.1 N aqueous NaOH. Dilute the solution with dichloromethane (100 mL), transfer into a separation funnel and shake with 0.1 N NaOH (60 mL). Separate the organic layer and dry it over anhydrous sodium sulfate. Evaporate the solvent under reduced pressure. Further purify the residue by chromatography on silica gel column (10%-30% ethyl acetate/hexane) to obtain 2-bromo-6-(1-t-butoxycarbonylpiperidin-4-ylcarbonyl)-pyridine (2.7 g, quantitative yield). Mass spectrum (ion spray): m/z 370 (M+1).

reactant | 2,6-dibromopyridine | 15.3 mmol, 3.6 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 4-(methoxy-methyl-aminocarbonyl)-piperidine-1-carboxylic acid tert-butyl ester | 7.3 mmol, 2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)N(C)OC | C13H24N2O4
reactant | NaOH | 0.1 N, 60 mL | [OH-].[Na+]
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-bromo-6-(1-t-butoxycarbonylpiperidin-4-ylcarbonyl)-pyridine | 2.7 g, quantitative yield | BrC1=NC(=CC=C1)C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C16H21BrN2O3
